US05962462
1-Acetyl-spiro(indoline-3,4'-piperidine)
Acetyl chloride (1.4 mL, 19.9 mmol) was added to a solution of 5.35 g (16.6 mmol) of 1'-benzyloxycarbonyl-spiro(indoline-3,4'-piperidine) in 33 mL of CH2Cl2 and 3.2 mL (23.2 mmol) of Et3N keeping the temperature between 0-5° C. by cooling in ice bath. After 10 min the cold bath was removed and reaction was stirred for 30 min at which time a TLC indicated complete reaction. The solution was diluted with CH2Cl2 and washed with water, brine and dried over Na2SO4. The filtrate was concentrated to a thick oil and the oil was dissolved in 40 mL of EtOH. Acetic acid (3 mL) and 0.8 g of 10% Pd/C were added to the solution and the resulting mixture was hydrogenated on a Parr apparatus for 3 h. The catalyst was filtered and washed with EtOAc and the combined filtrate was concentrated. The residue was partitioned between CH2Cl2 and water and 2N NaOH was added to this mixture until the aqueous layer was basic. The layers were separated and the aqueous layer was extracted with CH2Cl2. The combined organic layer was washed with brine, dried over Na2SO4 and the filtrate was concentrated to give 2.93 g (77%) of the title compound sufficiently pure for use in the next reaction.

reactant | Acetyl chloride | 19.9 mmol, 1.4 mL | C(C)(=O)Cl | C2H3ClO
reactant | 1'-benzyloxycarbonyl-spiro(indoline-3,4'-piperidine) | 16.6 mmol, 5.35 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC1)CNC1=CC=CC=C12 | C20H22N2O2
reactant | Et3N | 23.2 mmol, 3.2 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 33 mL | C(Cl)Cl | CH2Cl2
product | 1-Acetyl-spiro(indoline-3,4'-piperidine) | 2.93 g, 77% | C(C)(=O)N1CC2(CCNCC2)C2=CC=CC=C12 | C14H18N2O
